US08557805B2
2-Ethyl-4-{[6-(methylsulfonyl)pyridin-3-yl]oxy}aniline
A mixture of 5-(3-ethenyl-4-nitrophenoxy)-2-(methylsulfonyl)pyridine (5.0 g), 10% palladium carbon (1.0 g, containing water (50%)), tetrahydrofuran (100 mL), and methanol (50 mL) was stirred under a hydrogen atmosphere (balloon pressure) at room temperature for 3 days. The catalyst was filtered off, and the obtained filtrate was concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=25:75 to 60:40, volume ratio) to give the title compound (4.05 g, yield 89%) as a pale-yellow oil.

reactant | 5-(3-ethenyl-4-nitrophenoxy)-2-(methylsulfonyl)pyridine | 5.0 g | C(=C)C=1C=C(OC=2C=CC(=NC2)S(=O)(=O)C)C=CC1[N+](=O)[O-] | C14H12N2O5S
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | methanol | 50 mL | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 1.0 g | [C].[Pd]
solvent | hexane | CCCCCC | C6H14
product | 2-Ethyl-4-{[6-(methylsulfonyl)pyridin-3-yl]oxy}aniline | 4.05 g, yield 89% | C(C)C1=C(N)C=CC(=C1)OC=1C=NC(=CC1)S(=O)(=O)C | C14H16N2O3S
